datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:12])[H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:12])[H:13])=[C:5]([C:6]([H:16])([H:17])[H:18])[H:15])([H:9])([H:10])[H:11].[O:7][O:8][H:19],64.4336
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])([H:11])[C:15]([c:16]1[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]1[H:28])([H:22])[H:23])[H:7],32.1331
[C:0](#[C:1][C:2](=[C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])[H:11])[H:10].[C:18]([C:19]([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])([H:26])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([c:4]1[c:5]([H:13])[c:6]([H:14])[c:7]([H:15])[c:8]([H:16])[c:9]1[H:17])[H:12])([H:11])[C:19]([C:18]([H:26])([H:27])[H:28])([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])[H:10],35.1874
[C:0](=[O:1])([H:2])[H:3].[S:4]([H:5])[H:6]>>[C:0]([O:1][H:5])([H:2])([H:3])[S:4][H:6],156.733
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:20])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13](=[C:12]([H:18])[H:19])[H:20])([C:15]([H:21])([H:22])[H:23])[C:16](=[C:17]([H:25])[H:26])[H:24])[H:7])[H:6],60.5006
[C:0](#[N:1])[H:2].[C:3]([H:4])[H:5]>>[C:0]#[N:1].[H:2][C:3]([H:4])[H:5],0.0
[C:0](=[C:1]([C:2]([S:3][H:8])[H:7])[H:6])([H:4])[H:5].[S:9]([H:10])[H:11]>>[C:0](=[C:1]([C:2]([S:3][H:8])([H:7])[H:10])[H:6])([H:4])[H:5].[S:9][H:11],38.9112
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][c:19]1[c:20]([H:25])[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]1[H:29],-19.6648
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[S:10]=[C:11]([S:12][H:14])[H:13]>>[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:6])[C:11]([S:10])([S:12][H:14])[H:13])([H:3])([H:4])[H:5],17.5728
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8][C:9](=[S:10])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:8](=[C:7]([H:11])[H:12])[C:9](=[S:10])[H:13],30.9616
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:6](=[C:7]([H:21])[H:22])[H:20])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:6]([H:20])[C:7]1([H:21])[H:22],26.3592
[C:0](=[C:1]([H:4])[H:5])([H:2])[H:3].[C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:0](=[C:1]([H:4])[H:5])[H:3].[H:2][C:6]([C:7]([H:10])([H:11])[H:12])([H:8])[H:9],75.312
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13]([C:14]([H:22])([H:23])[H:24])([C:15]([O:16][O:17])([H:25])[H:26])[H:21])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:17][O:16][C:15]([C:13]([C:12]([H:18])([H:19])[H:20])([C:14]([H:22])([H:23])[H:24])[H:21])([H:25])[H:26],62.3416
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([H:13])([H:14])[H:15])[H:9])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([H:13])([H:14])[H:15])([H:8])[H:9])([H:5])([H:6])[H:7],154.39
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6](=[C:7]([H:9])[H:10])[H:8]>>[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][C:6](=[C:7]([H:9])[H:10])[H:8],29.037
[C:0]([S:1][H:5])([H:2])([H:3])[H:4].[S:6]=[C:7][S:8][H:9]>>[C:0]([S:1])([H:2])([H:3])[H:4].[H:5][C:7](=[S:6])[S:8][H:9],2.5104
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([C:8]([H:11])([H:12])[H:13])([H:9])[H:10]>>[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])([H:3])[H:11].[C:7](=[C:8]([H:12])[H:13])([H:9])[H:10],0.0
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[C:25](=[C:26]([C:27]([C:28]([H:33])([H:34])[H:35])[C:29]([H:36])([H:37])[H:38])[H:32])([H:30])[H:31]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][C:27]([C:26](=[C:25]([H:30])[H:31])[H:32])([C:28]([H:33])([H:34])[H:35])[C:29]([H:36])([H:37])[H:38],77.8224
[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:4])([H:5])[H:6].[C:10]([H:11])([H:12])[H:13]>>[C:0]([C:1]#[C:2][C:3]([H:7])([H:8])[H:9])([H:5])[H:6].[H:4][C:10]([H:11])([H:12])[H:13],77.404
